US08664261B2
(1R,2S,5R)-2-isopropyl-5-methyl-N-(1-(pyridin-3-yl)propan-2-yl)cyclohexanecarboxamide
In a 25 mL round bottom flask, fitted with magnetic stirrer, 15 mL of tetrahydrofuran, 1.5 mmol (1.5 eq.) of pyridine and 1.1 mmol (1.1 eq.) of 1-(pyridin-3-yl)propan-2-amine were added. p-Menthane carboxylic acid chloride (1.0 mmol) and the mixture was stirred at room temperature for 16 hours. The reaction mixture was extracted with MTBE and NaOH (1N in water). The organic layer was washed with brine, dried over MgSO4 and concentrated. The crude product was purified by column chromatography, obtaining 220 mg of a white solid, mp 108-110° C.

reactant | pyridine | 1.5 mmol, 1.5 eq. | N1=CC=CC=C1 | C5H5N
reactant | 1-(pyridin-3-yl)propan-2-amine | 1.1 mmol, 1.1 eq. | N1=CC(=CC=C1)CC(C)N | C8H12N2
reactant | p-Menthane carboxylic acid chloride | 1.0 mmol | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (1R,2S,5R)-2-isopropyl-5-methyl-N-(1-(pyridin-3-yl)propan-2-yl)cyclohexanecarboxamide | 220 mg | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)C(=O)NC(CC=1C=NC=CC1)C | C19H30N2O
